US05861108
Heated for refluxing were 2-benzyloxy-6-naphthoic acid of 27.8 g and oxalyl chloride of 15.2 g in toluene of 200 g for 3 hours, and then excess oxalyl chloride and toluene were distilled off under reduced pressure to obtain 2-benzyloxy-6-naphthoyl chloride. This acid chloride was dissolved in toluene of 120 g, and pyridine of 9.5 g and 2-propanol of 6.6 g were added thereto, followed by stirring the solution at 80° C. for 3 hours. Then, after filtering off deposited pyridine hydrochloride, an organic layer was washed with 1N-hydrochloric acid and further washed with water to neutral. The organic layer was separated, and toluene was distilled off under reduced pressure to obtain a crude product. The product was recrystallized from ethanol, whereby 1'-methylethyl 2-benzyloxy-6-naphthoate of 27.2 g was obtained in the form of colorless crystal.

reactant | 2-benzyloxy-6-naphthoic acid | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)C(=O)O | C18H14O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-benzyloxy-6-naphthoyl chloride | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)C(=O)Cl | C18H13ClO2
